US06096918
(E)-3(2-Hydroxy-phenyl)-2-methyl-acrylic acid
To a solution of 35.5 g of (E)-3-(2-hydroxy-phenyl)-2-methyl-acrylic acid ethyl ester in 600 ml of ethanol, a solution of 10.66 g of potassium hydroxide in 500 ml of water was dropped in. After refluxing for 5 hours, another 5.0 g of potassium hydroxide was put in and the mixture was refluxed for another 19 hours. Then the reaction mixture was cooled down, diluted with ether and washed to pH 4 with HCl 2N and water. The organic phase was dried, filtered and evaporated to dryness. The resulting colourless crystals were not further purified.

reactant | (E)-3-(2-hydroxy-phenyl)-2-methyl-acrylic acid ethyl ester | 35.5 g | C(C)OC(\C(=C\C1=C(C=CC=C1)O)\C)=O | C12H14O3
reactant | potassium hydroxide | 10.66 g | [OH-].[K+]
reactant | potassium hydroxide | 5.0 g | [OH-].[K+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | (E)-3(2-Hydroxy-phenyl)-2-methyl-acrylic acid | OC1=C(C=CC=C1)/C=C(/C(=O)O)\C | C10H10O3
